US09422285B2
2-(Trifluoromethyl)piperidine-4-amine hydrochloride
115 mg (0.43 mmol) of tert-butyl [2-(trifluoromethyl)piperidin-4-yl]carbamate were initially charged in 2.2 ml of diethyl ether, 2.14 ml (4.28 mmol) of 2 N hydrochloric acid in diethyl ether were added and the mixture was stirred at RT overnight. The reaction mixture was concentrated and the residue was dried under high vacuum. 89 mg of the target compound were obtained (101% of theory).

reactant | tert-butyl [2-(trifluoromethyl)piperidin-4-yl]carbamate | 0.43 mmol, 115 mg | FC(C1NCCC(C1)NC(OC(C)(C)C)=O)(F)F | C11H19F3N2O2
reactant | hydrochloric acid | 4.28 mmol, 2 N, 2.14 ml | Cl | ClH
solvent | diethyl ether | 2.2 ml | C(C)OCC | C4H10O
product | 2-(Trifluoromethyl)piperidine-4-amine hydrochloride | 89 mg | Cl.FC(C1NCCC(C1)N)(F)F | InChI=1S/C6H11F3N2.ClH/c7-6(8,9)5-3-4(10)1-2-11-5;/h4-5,11H,1-3,10H2;1H
